US06344449B1
e) 3,4-dihydro-3-[1-(phenylmethyl)-4-piperidinyl]-2(1H)-pyrido[2,3-d]-pyrimidinone
A mixture of 4.2 g (0.0142 mol) of 2-amino-3-[[[1-(phenylmethyl)-4-piperidinyl]amino]methyl]-pyridine, 2.4 g (0.0148 mol) of N,N′-carbonyldiimidazole and 50 ml of dimethylformamide was heated to 100° C. for 30 minutes. The still warm mixture was stirred into 300 ml of ice water, the precipitate formed was suction filtered and recrystallised from acetonitrile. After drying in vacuo 4.5 g (98.3% of theory) of colourless crystals of melting point 187° C. were obtained.

reactant | 2-amino-3-[[[1-(phenylmethyl)-4-piperidinyl]amino]methyl]-pyridine | 0.0142 mol, 4.2 g | NC1=NC=CC=C1CNC1CCN(CC1)CC1=CC=CC=C1 | C18H24N4
reactant | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 3,4-dihydro-3-[1-(phenylmethyl)-4-piperidinyl]-2(1H)-pyrido[2,3-d]-pyrimidinone | C1(=CC=CC=C1)CN1CCC(CC1)N1C(NC2=C(C1)C=CC=N2)=O | C19H22N4O
